US05571819
3-(1-Benzyl-4-chloro-1H-imidazo[4,5-c]pyridin-2-yl)-1-ethyl-piperidin-3-ol
Following the procedure of Example 13 and using 1-benzyl-4-chloro-1H-imidazo[4,5-c]pyridine (0.60 g, 2.5 mmol) and (0.36g, 2.8 mmol) of N-ethyl-3-piperidone gave the free base of the title compound which was purified by flash chromatography on silica gel eluting with EtOAc to give, after preparation of the salt, the dihydrochloride, 0.59 hydrate as an amorphous solid, 0.30 g (26%):

reactant | 1-benzyl-4-chloro-1H-imidazo[4,5-c]pyridine | 2.5 mmol, 0.60 g | C(C1=CC=CC=C1)N1C=NC=2C(=NC=CC21)Cl | C13H10ClN3
reactant | N-ethyl-3-piperidone | 2.8 mmol, 0.36g | C(C)N1CC(CCC1)=O | C7H13NO
product | 3-(1-Benzyl-4-chloro-1H-imidazo[4,5-c]pyridin-2-yl)-1-ethyl-piperidin-3-ol | C(C1=CC=CC=C1)N1C(=NC=2C(=NC=CC21)Cl)C2(CN(CCC2)CC)O | C20H23ClN4O
